US07576215B2
{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}[3-(TRIFLUOROMETHYL)BENZYL]AMINE
The title compound was prepared from {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine and 3-trifluoromethyl-benzaldehyde according to the procedure of Example 66. MS (ESI) m/z 537.

reactant | {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | 3-trifluoromethyl-benzaldehyde | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
product | {3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}[3-(TRIFLUOROMETHYL)BENZYL]AMINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=CC(=CC=C1)C(F)(F)F)C(F)(F)F | C31H22F6N2
